US04814337
In 30 ml of formic acid, a reaction of 4.11 g of 5-bromo-2,4-diiodopyrimidine and 1.17 g of potassium thiocyanate was conducted at room temperature (20° C.) for 5 hours in a similar manner as Synthesis Example 1. Then, the reaction mixture was treated in a similar procedure as Synthesis Example 1, there was obtained a 82.4% yield of 5-bromo-2-iodo-4 thiocyanopyrimidine, m.p. 199°-202° C.

reactant | 5-bromo-2,4-diiodopyrimidine | 4.11 g | BrC=1C(=NC(=NC1)I)I | C4HBrI2N2
reactant | potassium thiocyanate | 1.17 g | [S-]C#N.[K+]
solvent | formic acid | 30 ml | C(=O)O | CH2O2
product | 5-bromo-2-iodo-4 thiocyanopyrimidine | 82.4% yield | BrC=1C(=NC(=NC1)I)SC#N | C5HBrIN3S
